US06979741B2
(3R)-4-[1′-(2,6-Diphenyl-pyridine-4-carbonyl)-[1,4′]bipiperidinyl-3-carbonyl]-piperazine-1-carboxylic acid amide
(3R)-(2,6-Diphenyl-pyridin-4-yl)-[3-(piperazine-1-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-methanone (21.4 mg, 0.040 mmol) and sodium cyanate (0.060 mmol, 3.9 mg) were heated at 100° C. in a water-dioxane-n-propanol solution. After 2 h an additional aliquot of sodium cyanate (4 mg) was added and heating was continued for another 1 hour then the solution was allowed to stir at ambient temperature for an additional 42 h. The solvent was removed under vacuum and the product was purified by silica gel chromatography eluting with a 5% to 10% methanol-dichloromethane gradient to give the title compound (9.3 mg, 40%).

reactant | (3R)-(2,6-Diphenyl-pyridin-4-yl)-[3-(piperazine-1-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-methanone | 0.040 mmol, 21.4 mg | C1(=CC=CC=C1)C1=NC(=CC(=C1)C(=O)N1CCC(CC1)N1C[C@@H](CCC1)C(=O)N1CCNCC1)C1=CC=CC=C1 | C33H39N5O2
reactant | sodium cyanate | 0.060 mmol, 3.9 mg | [O-]C#N.[Na+]
reactant | sodium cyanate | 4 mg | [O-]C#N.[Na+]
solvent | water dioxane-n-propanol | O.C(CC)O.O1CCOCC1
product | (3R)-4-[1′-(2,6-Diphenyl-pyridine-4-carbonyl)-[1,4′]bipiperidinyl-3-carbonyl]-piperazine-1-carboxylic acid amide | 9.3 mg, 40% | C1(=CC=CC=C1)C1=NC(=CC(=C1)C(=O)N1CCC(CC1)N1C[C@@H](CCC1)C(=O)N1CCN(CC1)C(=O)N)C1=CC=CC=C1 | C34H40N6O3
